US07807701B2
b-1) trans-4-(ethoxycarbonylmethyl)cyclohexanecarboxylic acid
To a solution (600 ml) of ethyl 4-oxocyclohexanecarboxylate (150 g) in ethanol was added sodium hydroxide (38.8 g) with stirring at room temperature. The reaction solution was stirred for 1 hr and ethyl diethylphosphonoacetate (192 ml) was added. To this reaction solution was added dropwise 21% sodium ethoxide/ethanol solution (363 ml) with stirring under ice-cooling over 1 hr. The stirring was continued for 1 hr and acetic acid (126 ml) was added. Then ammonium formate (111 g) and palladium carbon (5%, 15 g) were added and the mixture was stirred at 60° C. for 6 hr with heating. The reaction solution was allowed to return to room temperature and insoluble materials were filtered off through celite. The filtrate was concentrated and the obtained residue was diluted with ethyl acetate. The mixture was washed successively with 2N aqueous hydrochloric acid, water and saturated brine. The organic layer was dried over sodium sulfate and sodium sulfate was filtered off. The filtrate was concentrated to give a crudely purified product (180.4 g) of the title compound.

reactant | ethyl 4-oxocyclohexanecarboxylate | 600 ml, 150 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | sodium hydroxide | 38.8 g | [OH-].[Na+]
reactant | ethyl diethylphosphonoacetate | 192 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium ethoxide ethanol | 363 ml | [O-]CC.[Na+].C(C)O
reactant | ammonium formate | 111 g | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 15 g | [C].[Pd]
solvent | acetic acid | 126 ml | C(C)(=O)O | C2H4O2
product | trans-4-(ethoxycarbonylmethyl)cyclohexanecarboxylic acid | 180.4 g | C(C)OC(=O)C[C@@H]1CC[C@H](CC1)C(=O)O | C11H18O4
